US07067537B2
ii) Production of 2-bromo-1-(4-methylpyridin-3-yl)propane-1-one hydrobromate
To a solution of 1-(4-methylpyridin-3-yl)propan-1-one (4.72 g) in acetic acid (35 ml) was added hydrobromic acid (5.5 ml) and the mixture was cooled to 10° C. A solution of bromine (5.0 g) in acetic acid (15 ml) was gradually added to the reaction mixture and the mixture was stirred at 80° C. for one hr. The solvent was evaporated under reduced pressure and the residue was recrystallized from ethyl acetate to give the title compound (5.56 g) as a pale-yellow powder.

reactant | 1-(4-methylpyridin-3-yl)propan-1-one | 4.72 g | CC1=C(C=NC=C1)C(CC)=O | C9H11NO
reactant | hydrobromic acid | 5.5 ml | Br | BrH
reactant | bromine | 5.0 g | BrBr | Br2
solvent | acetic acid | 35 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 2-bromo-1-(4-methylpyridin-3-yl)propane-1-one | 5.56 g | BrC(C(=O)C=1C=NC=CC1C)C | C9H10BrNO
